US08431575B2
A mixture of the 5-(4-benzyloxy-phenyl)-6-trifluoromethyl-2H-pyridazin-3-one (0.491 mmol, 170 mg) and phosphorus(V) oxychloride may be heated at 90° C. for 2 h. The reaction mixture may be concentrated in vacuo, and ice may be added to the residue. The mixture may be neutralized with solid sodium bicarbonate and extracted with diethyl ether. Purification by column chromatography on silica gel gives 4-(4-benzyloxy-phenyl)-6-chloro-3-trifluoromethyl-pyridazine as a white solid.

reactant | 5-(4-benzyloxy-phenyl)-6-trifluoromethyl-2H-pyridazin-3-one | 0.491 mmol, 170 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=CC(NN=C1C(F)(F)F)=O | C18H13F3N2O2
reactant | phosphorus(V) oxychloride | O(Cl)Cl.[P+5]
product | 4-(4-benzyloxy-phenyl)-6-chloro-3-trifluoromethyl-pyridazine | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=C(N=NC(=C1)Cl)C(F)(F)F | C18H12ClF3N2O
